US05126477
Ethylene diamine (6 g) and dimethyl carbonate (18 g) were mixed together in a round bottom flask at 20° C. TBD (0.1 g) was added and the mixture allowed to stand for 24 h. After this time a white solid product was collected and recrystallised from methanol to give bis (methoxycarbonyl) ethylene diamine. NMR and IR spectra were consistent with the desired compound.

reactant | Ethylene diamine | 6 g | C(CN)N | C2H8N2
reactant | dimethyl carbonate | 18 g | C(OC)(OC)=O | C3H6O3
product | bis (methoxycarbonyl) ethylene diamine | COC(=O)NCCNC(=O)OC | C6H12N2O4
